US06740662B1
To an acetone solution of 3-(3-chlorobenzoyl)-6-dimethoxymethyl-2-ethylaminopyridine was added 6M hydrochloric acid, and the whole was reacted at room temperature for 5 hours. After removal of the solvent by evaporation, propylene oxide and chloroacetyl chloride were added to the product obtained by a usual liquid-separation treatment in methyl t-butyl ether, and the whole was stirred at 60° C. for 14 hours. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 2-chloro-N-[3-(3-chlorobenzoyl)-6-formylpyridin-2-yl]-N-ethylacetamide as a yellow oily substance. NMR1: 10.1 (1H, d, J=0.6 Hz), 7.95 (2H, brs), 1.0-1.5 (3H, m).

reactant | 3-(3-chlorobenzoyl)-6-dimethoxymethyl-2-ethylaminopyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C(OC)OC)NCC)C=CC1 | C17H19ClN2O3
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
product | 2-chloro-N-[3-(3-chlorobenzoyl)-6-formylpyridin-2-yl]-N-ethylacetamide | ClCC(=O)N(CC)C1=NC(=CC=C1C(C1=CC(=CC=C1)Cl)=O)C=O | C17H14Cl2N2O3
